2132-10-06 07:44:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
 EKG - At [**2132-10-5**] 10:56 PM
   Tolerated diuresis well, received lasix 40 mg IV x 1, lasix 20 mg IV x
   1.  Currently net (-) 2.5 L.  Overnight, persistent sinus tachycardia
   with PACs, with two episodes of SVT.  Currently in SVT, ECG suggest
   atrial flutter with 2:1 conduction.  Given lopressor IV 2.5 mg x 2 for
   rate control with little effect.  Carotid massage unsuccessful.  SBP
   80s-90s, given NS 500 cc bolus x 2.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-10-6**] 12:30 AM
   Metoprolol - [**2132-10-6**] 05:47 AM
   Other medications:
   Changes to medical and family history:
   pt feels well, no complaints, currently in SVT without any
   palpitations, chest pain/pressure, SOB
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Genitourinary: No(t) Dysuria
   Neurologic: No(t) Numbness / tingling
   Flowsheet Data as of  [**2132-10-6**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.3
   HR: 145 (107 - 151) bpm
   BP: 97/44(58) {92/43(58) - 137/90(97)} mmHg
   RR: 25 (19 - 32) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 63 Inch
             Total In:
                                                                    807 mL
                                                                    800 mL
   PO:
                                                                    790 mL
                                                                    300 mL
   TF:
   IVF:
                                                                     17 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,385 mL
                                                                  1,485 mL
   Urine:
                                                                  2,385 mL
                                                                  1,485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,578 mL
                                                                   -685 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, no carotid bruits
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), regular, tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : at bases, improved)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   63 K/uL
   13.6 g/dL
   109 mg/dL
   1.2 mg/dL
   32 mEq/L
   3.8 mEq/L
   24 mg/dL
   99 mEq/L
   141 mEq/L
   41.7 %
   10.2 K/uL
        [image002.jpg]
                             [**2132-10-5**]  07:40 AM
                             [**2132-10-5**]  04:15 PM
                             [**2132-10-6**]  04:59 AM
   WBC
   15.0
   11.2
   10.2
   Hct
   50.1
   44.3
   41.7
   Plt
   70
   61
   63
   Cr
   1.4
   1.4
   1.2
   TropT
   0.08
   0.07
   Glucose
   181
   109
   109
   Other labs: PT / PTT / INR:12.0/23.0/1.0, CK / CKMB /
   Troponin-T:90//0.07, ALT / AST:48/27, Alk Phos / T Bili:72/0.9,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:13.0 %, Mono:7.0 %,
   Eos:0.0 %, Albumin:3.8 g/dL, LDH:260 IU/L, Ca++:9.0 mg/dL, Mg++:1.7
   mg/dL, PO4:4.6 mg/dL
   Imaging:
   IMPRESSION: Airspace opacity at the lung bases, with a right pleural
   effusion, and enlarged heart silhouette, likely consistent with
   congestive
   heart failure/pulmonary edema; however superimposed infection cannot be
   excluded.
   TTE:
   The left atrium is normal in size. Left ventricular wall thicknesses
   are normal. The left ventricular cavity is dilated. LV systolic
   function appears depressed (ejection fraction ? 30 percent). The
   inferior and posterior walls appear akinetic; the rest of the left
   ventricle appears hypokinetic. Right ventricular chamber size is
   normal. with depressed free wall contractility. The diameters of aorta
   at the sinus, ascending and arch levels are normal. The aortic valve
   leaflets (3) are mildly thickened but aortic stenosis is not present.
   No aortic regurgitation is seen. The mitral valve leaflets are mildly
   thickened. There is no mitral valve prolapse. Mild to moderate ([**1-25**]+)
   mitral regurgitation is seen. There is no pericardial effusion.
   ECG: evidence of typical a. flutter with 2:1 conduction this morning
   Assessment and Plan
   ASSESSMENT AND PLAN 75 yo F without [**Hospital **] medical hx presented with acute
   SOB.
   .
   # SVT
 pt entirely asymptomatic.  Appears to be in typical a. flutter,
   with intermittent a. fib.  Manual BP 118/66 after one liter NS.  Did
   not respond to lopressor 2.5 mg IV x 2.  Given lack of symptoms, pt may
   have had recurrent asymptomatic SVT for some time, with resultant
   tachycardia-induced dilated cardiomyopathy.
   -  will attempt rate control with dilt
   -  pt will likely need anti-coagulation with heparin, will defer for
   now given thrombocytopenia
   -  will start amio 400 tid today
   - will start heparin ggt
   - will consider cardioversion if medication not successful for rate
   control
   .
   # Pump: CHF, with likely tachycardia-induced dilated cardiomyopathy.
   -formal TTE today
   -will restarte low dose Ace-I today
   -heparin ggt
   -stress as outpatient when rate controlled and stable
   .
   # Acute sob: most consistent with acute systolic CHF, unclear
   [**Name2 (NI) 8247**], likely acute/subacute cardiomyopathy due to viral
   infection, possibly also due to pericardial effusion (?malignancy),
   unlikely due to ACS as minimal enzyme elevation and no concerning EKG.
   - Diurese -> pt (-) 2 liters since admission
   - ECHO -> see above
   - BNP -> will f/u today
   - wean O2 -> down from 5 to 3 liters n/c
   .
   # Sinus tachycardia: possibly due to hypoxia, vs
   myocarditis/pericarditis.  Multiple PACs likely trigger for current SVT
   - monitor
   - treat underlying cause: CHF
   .
   # thrombocytopenia: in the setting of polycythemia could be due to
   myeloproliferative or dysplastic syndrome. unlikely HIT. no signs of
   sepsis, TTP. also possible to be secondary to bone marrow supression
   from viral infection, though unlikely
   - stop  hep gtt
   - trend
   - once pt more stable will obtain Heme consult for further assistance
   - no evidence of hemolysis on smear, will review again today
   .
   # polycythemia: could be due to polycythemia [**Doctor First Name **], unlkely due to
   chronic hypoxia. Workup as per thrombocytopenia
   - ASA
   .
   # Renal failure: given slightly hypercalemia this is most likely acute,
   perhaps due to CHF. no hypotension, not prerenal.  Now improving
   - urine lytes
   - avoid nephrotoxins
   - renally dose meds
   .
   .
   FEN:  npo for now as possible procedures pending
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with pneumoboots
   .
   CODE: Presumed full
   .
   COMM:
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-10-5**] 09:41 AM
   18 Gauge - [**2132-10-5**] 09:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   Initiate amiodarone for atrial fibrillation
   initiate ace inhibitor for non coronary cardiomyopathy
   Ultimately will do Mibi to exclude CAD though low probability
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 1584**]
   on:[**2132-10-6**] 17:08 ------

2132-10-07 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   PCP has no records of pt. Started Amio 400 tid, Lisinopril 5, heparin
   gtt. Afternoon and evening dose of Amio were 600 (1600mg over course of
   the day). Got Lasix 40 po in the PM. SBP 80s-100s. BNP 9991. SPEP
   showed hypogammaglobulinemia.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Diltiazem - [**2132-10-6**] 08:05 AM
   Heparin Sodium - [**2132-10-6**] 06:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-10-7**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 134 (128 - 166) bpm
   BP: 94/42(61) {76/42(50) - 118/87(90)} mmHg
   RR: 20 (15 - 31) insp/min
   SpO2: 95% on 3L
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 63 Inch
             Total In:
                                                                  2,150 mL
                                                                     74 mL
   PO:
                                                                    900 mL
             TF:
   IVF:
                                                                  1,250 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    305 mL
   Urine:
                                                                  1,920 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    230 mL
                                                                   -231 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95% on 3L
   ABG: ///31/
   Physical Examination
   Gen: NAD, sitting in bed
   HEENT: PERRL, no cervical lymphadenopathy, oropharynx clear
   Heart: tachycardic, nl S1, S2
   Lungs: crackles at bases posteriorly, R>L
   Abd: nl BS, soft NTND, no splenomegaly.
   Ext: (Right radial pulse: 2+), (Left radial pulse: 2+), (Right DP
   pulse: 2+), (Left DP pulse: 2+). No calf tenderness. Trace pitting
   edema in bilateral lower extremities.
   Skin:  No petechiae seen
   Labs / Radiology
   60 K/uL
   12.4 g/dL
   129 mg/dL
   1.5 mg/dL
   31 mEq/L
   4.1 mEq/L
   31 mg/dL
   97 mEq/L
   136 mEq/L
   38.3 %
   7.9 K/uL
        [image002.jpg]
                             [**2132-10-5**]  07:40 AM
                             [**2132-10-5**]  04:15 PM
                             [**2132-10-6**]  04:59 AM
                             [**2132-10-7**]  05:26 AM
   WBC
   15.0
   11.2
   10.2
   7.9
   Hct
   50.1
   44.3
   41.7
   38.3
   Plt
   70
   61
   63
   60
   Cr
   1.4
   1.4
   1.2
   1.5
   TropT
   0.08
   0.07
   Glucose
   181
   109
   109
   129
   Other labs: PT / PTT / INR:11.8/77.8/1.0, CK / CKMB /
   Troponin-T:90//0.07, ALT / AST:48/27, Alk Phos / T Bili:72/0.9,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:13.0 %, Mono:7.0 %,
   Eos:0.0 %, Albumin:3.8 g/dL, LDH:260 IU/L, Ca++:8.4 mg/dL, Mg++:2.8
   mg/dL, PO4:4.9 mg/dL
   BNP 9991.   SPEP: hypogammaglobulinemia
   Assessment and Plan
   75yo F no PMH p/w with 4d hx worsening SOB concerning for CHF
   exacerbation now in atrial flutter.
   .
   # SVT
 pt entirely asymptomatic. Appears to be in typical a-flutter,
   with intermittent a-fib. Has not cardioverted after Lopressor 2.5 mg IV
   x 2 and 1.6g Amio load yesterday. Given lack of symptoms, pt may have
   had recurrent asymptomatic SVT for some time.
   - Continue Amio 400 tid
   - Continue heparin gtt
   - DC cardioversion this morning
 pt has been NPO since midnight, will
   contact SICU anesthesia this morning
   .
   # PUMP: Systolic LV dysfunction, mild RV systolic dysfunction.  fellow
   echo showed EF 30% with dilated LV cavity. [**1-25**]+ MR. Etiology uncertain,
   possibly tachycardia-induced dilated cardiomyopathy. Got Lasix 20IV and
   40 po yesterday. BNP 9991.  Other etiology to consider is HTN vs.
   ischemia vs. viral myocarditis
   - Formal TTE after rate controlled -> not done yesterday
   - Continue Lisinopril 5 mg daily
   - Consider adding standing beta blocker if BP tolerates it after
   procedure
   - Stress test as outpatient when rate controlled and stable
   .
   # SOB: most consistent with acute systolic HF, unclear [**Name2 (NI) 8247**].
   Possibly acute/subacute cardiomyopathy due to viral infection,
   tachycardia induced, HTN. Unlikely due to ACS as minimal enzyme
   elevation and no concerning EKG.
   - Sx of edema, SOB, lung exam improved today
   - Wean O2
   .
   # THROMBOCYTOPENIA: isolated, normal CBC and smear (no evidence of
   hemolysis). Large platelets seen on smear leads towards etiology of
   increased destruction. HIT unlikely with no recent exposure. Pt takes
   no medications. f/u Hepatitis. No lymphadenopathy, no splenomegaly.  No
   evidence of bleeding on exam
   - Continue to trend platelets
   - Heme consult?
   .
   # ACUTE KIDNEY INJURY: Urine lytes collected after Lasix doses here and
   at OSH but FEurea is equivocal. Likely [**2-25**] prerenal etiology vs
   cardiorenal. Improving since admission. Would also explain elevated H/H
   and WBC which are also improving since admission.
   - Continue to treat CHF
   - Avoid nephrotoxins, renally dose meds
   .
   FEN: NPO for now as possible procedures pending
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with pneumoboots
   .
   CODE: Presumed full
   .
   COMM: patient, daughter
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-10-5**] 09:41 AM
   18 Gauge - [**2132-10-5**] 09:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 45 minutes.
   Additional comments:
   persistent atrial flutter with rapid ra\te
   being loaded with amiodarone and plan for cv today
   on heparin
   persistently low platelets - undergoing workup
   obtain hematology consultation
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 1584**]
   on:[**2132-10-7**] 08:50 ------